US08309734B2
N-(2,6-Dichloro-3-methoxy-phenyl)-2-(2,5-dichloro-phenoxy)-5-fluoro-N-methyl-nicotinamide
To a solution of 2-(2,5-dichloro-phenoxy)-5-fluoro-nicotinoyl chloride (76.6 mg, 0.24 mmol, 1.0 equiv) in anhydrous DMF (1 mL) was added N-ethyldiisopropylamine (155 mg, 205 μL, 1.2 mmol, 5.0 equiv; [CAS RN 7087-68-5]) and 2,6-dichloro-3-methoxy-phenylamine (50.7 mg, 0.264 mmol, 1.1 equiv; [CAS RN 55285-43-3]) and the reaction mixture stirred at rt over night. To this solution was added sodium hydride (20.6 mg, 0.48 mmol, 2.0 equiv; 55% free-flowing powder moistened with oil; [CAS RN 7646-69-7]) and iodomethane (68.2 mg, 29 μL, 0.48 mmol, 2.0 equiv; [CAS RN 74-88-4]) and stirring of the reaction mixture at rt continued for 2 h. Removal of the solvent mixture under reduced pressure and purification by preparative HPLC on reversed phase (Xterra® PrepMSC 18, 5 μm, 19×50 mm column equipped with a Gilson Liquid Handler 215 autosampler, two Rainin Dynamax® SD-300 pumps, a Sedex ELSD 75 lightscatter and a Dionex UVD 340S UV detector) eluting with a gradient of acetonitrile/water provided 8.1 mg (7%) of the title compound as an off-white powder. MS (ISP): 490.9 [M+H]+.

reactant | 2-(2,5-dichloro-phenoxy)-5-fluoro-nicotinoyl chloride | 0.24 mmol, 76.6 mg, 1.0 equiv | ClC1=C(OC2=C(C(=O)Cl)C=C(C=N2)F)C=C(C=C1)Cl | C12H5Cl3FNO2
reactant | N-ethyldiisopropylamine | 1.2 mmol, 205 μL, 155 mg, 5.0 equiv | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2,6-dichloro-3-methoxy-phenylamine | 0.264 mmol, 50.7 mg, 1.1 equiv | ClC1=C(C(=CC=C1OC)Cl)N | C7H7Cl2NO
reactant | sodium hydride | 0.48 mmol, 20.6 mg, 2.0 equiv | [H-].[Na+]
reactant | iodomethane | 0.48 mmol, 29 μL, 68.2 mg, 2.0 equiv | IC | CH3I
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(2,6-Dichloro-3-methoxy-phenyl)-2-(2,5-dichloro-phenoxy)-5-fluoro-N-methyl-nicotinamide | 8.1 mg, 7% | ClC1=C(C(=CC=C1OC)Cl)N(C(C1=C(N=CC(=C1)F)OC1=C(C=CC(=C1)Cl)Cl)=O)C | C20H13Cl4FN2O3
